US05728835
4-Nitro-N-(4-chlorophenyl)benzamide
Using 4-chloroaniline (1.42 g, 11.0 mmol) and 4-nitrobenzoic acid (1.76 g, 10.4 mmol), the procedure of Reference Example 16 was repeated to obtain 2.84 g (98.5%) of the title compound in the form of yellow crystals.

reactant | 4-chloroaniline | 11.0 mmol, 1.42 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 4-nitrobenzoic acid | 10.4 mmol, 1.76 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(4-chlorophenyl)benzamide | 2.84 g, 98.5% | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=C(C=C2)Cl)C=C1 | C13H9ClN2O3
